US05721193
A mixture of 1-[4-bromo-2-(methylsulphenylmethyl)phenyl]-3-cyclopropylpropan-1,3-dione [4.4 g, containing approximately 1.0 g methyl 4-bromo-2-(methylsulphenylmethyl)benzoate], triethylorthoformate (3.5 ml) and acetic anhydride (2.9 ml) was heated at reflux for three hours. The mixture was then evaporated giving an impure sample of 1-[4-bromo-2-(methylsulphenylmethyl)phenyl]-3-cyclopropyl-2-ethoxymethylenepropane-1,3-dione as a red oil (4.8 g).

reactant | 1-[4-bromo-2-(methylsulphenylmethyl)phenyl]-3-cyclopropylpropan-1,3-dione | 4.4 g | BrC1=CC(=C(C=C1)C(CC(=O)C1CC1)=O)CSC | C14H15BrO2S
reactant | triethylorthoformate | 3.5 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 2.9 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[4-bromo-2-(methylsulphenylmethyl)phenyl]-3-cyclopropyl-2-ethoxymethylenepropane-1,3-dione | 4.8 g | BrC1=CC(=C(C=C1)C(C(C(=O)C1CC1)=COCC)=O)CSC | C17H19BrO3S
